US06610790B2
A round-bottomed flask was charged with a mixture of C4F9—CH2CF2—CH2CF2—I (180 g, 0.38 mol) and lithium chloride (23.9 g, 0.56 mol) in anhydrous N,N-dimethylformamide (DMF, 160 ml) solvent. The mixture flask was vigorously stirred throughout the reaction. A vacuum was applied (220-240 mm Hg) and the mixture was slowly heated up to 140° C. over the course of 1-2 hrs. A volatile component was distilled off during this heating period. It was collected in a cold trap. Redistillation afforded the desired 1,1,3,3,5,5,6,6,7,7,8,8,8-tridecafluoro-1-octene [C4F9—CH2CF2—CH═CF2] product as a clear colorless liquid having a boiling point 80-82° C. at 230 mm Hg. The yield was 86 grams (65.4%).

reactant | C4F9—CH2CF2—CH2CF2—I | 0.38 mol, 180 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)CC(F)(F)I | C8H4F13I
reactant | lithium chloride | 0.56 mol, 23.9 g | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 1,1,3,3,5,5,6,6,7,7,8,8,8-tridecafluoro-1-octene | FC(=CC(CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H3F13
